US09216173B2
37% hydrochloric acid (40.0 mL) in ethyl acetate (300 mL) was added dropwise to a solution of di-tert-butyl rel-(1R,2R)-cyclopropane-1,2-diylbiscarbamate (80.0 g) in ethyl acetate (500 mL) at 0° C. The reaction mixture was warmed to ambient temperature. After 16 hours, the reaction mixture was filtered. The collected solids were washed with diethyl ether and then dried under reduced pressure to afford tert-butyl rel-[(1R,2R)-2-aminocyclopropyl]carbamate HCl salt. MS ESI calc'd. for C8H17N2O2 [M+H]+ 173. found 173. 1H NMR (300 MHz, DMSO-d6) δ: 8.36 (bs, 3H), 7.14 (s, 1H), 2.87-2.86 (m, 1H), 2.50-2.49 (m, 1H), 1.39 (s, 9), 1.09-1.02 (m, 1H), 0.92-0.86 (m, 1H).

reactant | hydrochloric acid | 40.0 mL | Cl | ClH
reactant | di-tert-butyl rel-(1R,2R)-cyclopropane-1,2-diylbiscarbamate | 80.0 g | [C@@H]1([C@@H](C1)NC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O | C13H24N2O4
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl rel-[(1R,2R)-2-aminocyclopropyl]carbamate HCl salt | Cl.N[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | InChI=1S/C8H16N2O2.ClH/c1-8(2,3)12-7(11)10-6-4-5(6)9;/h5-6H,4,9H2,1-3H3,(H,10,11);1H/t5-,6-;/m1./s1
